US04719203
3-Methyl-2-nitrobenzaldehyde, prepared according to Berichte, 47, 406, is reacted with malonic acid in pyridine with the addition of piperidine to give 3-methyl-2-nitrocinnamic acid; yield 64% of theory; m.p. 230°-235° C., after recrystallisation from methanol. After hydrogenation thereof in aqueous sodium hydroxide solution in the presence of palladium catalyst, 2 mole of acetic anhydride are added thereto and the reaction product is purified on an Amberlite IR-120 column (H+ form). There is thus obtained, in a yield of 75% of theory, 3-(2-acetylamino-3-methyl-phenyl)-propionic acid; m.p. 110° C. sinters, 117°-120° C. This is then reacted with phosphorous acid/phosphorus trichloride analogously to Example 16.

reactant | 3-Methyl-2-nitrobenzaldehyde | CC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-methyl-2-nitrocinnamic acid | yield 64% | CC=1C(=C(C=CC(=O)O)C=CC1)[N+](=O)[O-] | C10H9NO4
